US07723368B2
Step 2) 2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-[3-(pyrrolidin-1-ylmethyl)phenyl]-3,5-dihydro-4H-imidazol-4-one
A small vial (10 ml) was charged with 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde (69 mg, 192 μmol) and 1,2-dichloroethane (DCE, 1 ml). To this was added one-third of a solution of pyrrolidine (41 mg, 0.576 mmol) in 1,2-dichloroethane (3.00 ml). After stirring overnight at room temperature sodium triacetoxyborohydride (58 mg, 270 μmol) was added followed by 1 drop of glacial acetic acid (˜12 mg), then after another 20 hours 1N sodium hydroxide (1 ml) was added and the mixture extracted with diethyl ether. The ethereal layer was concentrated by rotary evaporation, diluted with methanol and re-concentrated (repeated three times). Finally the oily residue was redissolved in diethylether/hexanes and concentrated, twice then placed under vacuum to give a white foam 66 mg (82%) 1H NMR (400 MHz, DMSO-d6) δ ppm 1.61 (t, J=3.4 Hz, 4H) 2.32 (t, J=6.5 Hz, 4H) 2.93 (s, 3H) 3.44 (s, 2H) 6.62 (br. s., 3H) 7.05 (d, J=8.8 Hz, 2H) 7.08-7.11 (m, 1H) 7.12 (t, J=74.18 Hz, 1H) 7.17 (t, J=7.6 Hz, 1H) 7.25 (t, J=4.6 Hz, 1H) 7.34 (s, 1H) 7.40 (d, J=8.8 Hz, 2H); MS (ES) m/z 413.3 [M−H]−

reactant | 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde | 192 μmol, 69 mg | NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C=1C=C(C=O)C=CC1)=O)C | C18H15F2N3O3
reactant | pyrrolidine | 0.576 mmol, 41 mg | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 270 μmol, 58 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | 1,2-dichloroethane | 3.00 ml | ClCCCl | C2H4Cl2
catalyst | acetic acid | 1 drop, ˜12 mg | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-[3-(pyrrolidin-1-ylmethyl)phenyl]-3,5-dihydro-4H-imidazol-4-one | 66 mg, 82% | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)CN1CCCC1)C1=CC=C(C=C1)OC(F)F | C22H24F2N4O2
